US08664258B2
Acetylchloride (1.36 mL, 19.1 mmol) was added slowly to a well-stirred solution of N-(3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)phenyl)-2,2,2-trifluoroacetamide (889 mg, 1.91 mmol) in methanol (10 mL). Zinc dust (1.25 g, 19.1 mmol) was added in small portions, and the mixture was stirred at 55° C. After 2 h, the solvent was removed under reduced pressure, and residue was suspended in 1M HCl (10 mL) and covered with ethyl acetate. The mixture was cooled on an ice bath, and ammonium hydroxide was added until all precipitate dissolved. The layers were separated, and the aqueous layer was extracted with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried with sodium sulfate, filtered and evaporated to dryness to yield N-(4-(2-amino-2-methylpropoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)phenyl)-2,2,2-trifluoroacetamide as a white powder (693 mg, 1.59 mmol, 83%). LCMS m/z (%)=437.3 (M+H 81Br 9.0%), 435.2 (M+H 79Br 14.0%).

reactant | Acetylchloride | 19.1 mmol, 1.36 mL | C(C)(=O)Cl | C2H3ClO
reactant | N-(3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)phenyl)-2,2,2-trifluoroacetamide | 1.91 mmol, 889 mg | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCC(C)([N+](=O)[O-])C)NC(C(F)(F)F)=O | C16H16BrF3N4O4
solvent | methanol | 10 mL | CO | CH4O
catalyst | Zinc | 19.1 mmol, 1.25 g | [Zn] | Zn
product | N-(4-(2-amino-2-methylpropoxy)-3-(4-bromo-2-methyl-2H-pyrazol-3-yl)phenyl)-2,2,2-trifluoroacetamide | 1.59 mmol, 693 mg, 83% | NC(COC1=C(C=C(C=C1)NC(C(F)(F)F)=O)C=1N(N=CC1Br)C)(C)C | C16H18BrF3N4O2
